US05089493
Ethyl 4-amino-3-methylthiazoline-2-thione-5-carboxylate (1.4g, 6.4 mmoles), prepared according to the procedure of Gewald, J. Prakt. Chem., 32, 26-30 (1966), was suspended in approximately 40ml of ethanol. Acetamidine hydrochloride (0.6g, 6.4 mmole) and 2.77g (12.8 mmole) of a 25% solution of sodium methoxide in methanol were added to the suspension and the resultant mixture refluxed for approximately 20 hours. The ethanol was removed in vacuo and the residue was suspended in water and neutralized with concentrated hydrochloric acid. The resultant precipitate was filtered and dried to provide 1 g of 3,5-dimethyl-6H-thiazolo[4,5-d]pyrimidin-7-one-2-thione. The structural assignment was confirmed by nuclear magnetic resonance spectral analysis.

reactant | Ethyl 4-amino-3-methylthiazoline-2-thione-5-carboxylate | 6.4 mmoles, 1.4g | NC=1N(C(SC1C(=O)OCC)=S)C | C7H10N2O2S2
reactant | Acetamidine hydrochloride | 6.4 mmole, 0.6g | Cl.C(C)(=N)N
reactant | sodium methoxide | C[O-].[Na+]
solvent | ethanol | approximately 40ml | C(C)O | C2H6O
solvent | methanol | CO | CH4O
product | 3,5-dimethyl-6H-thiazolo[4,5-d]pyrimidin-7-one-2-thione | 1 g | CN1C(SC2=C1N=C(NC2=O)C)=S | C7H7N3OS2
